US08871943B2
Methyl 4-(acetylamino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate was prepared in analogous fashion to isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate in Example 10 except that methyl 4-acetamido-3,6-dichloro-5-fluoropicolinate was used in place of isopropyl 4-amino-6-bromo-5-fluoropicolinate: mp=175-177° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.52 (dd, J=8.4, 1.6 Hz, 1H), 7.38 (dd, J=8.4, 7 Hz, 1H), 3.95 (d, J=0.8 Hz, 3H), 3.94 (s, 3H), 2.17 (s, 3H); 13C NMR (100.6 MHz, DMSO-d6) δ 168.0, 163.9, 154.4, 153.7, 151.9, 151.0, 144.9 (d, JF-C=4.4 Hz), 143.9 (d, JF-C=13.3 Hz), 139.5 (d, JF-C=16.7 Hz), 133.7 (d, JF-C=14.4 Hz), 129.3 (d, JF-C=3.2 Hz), 126.7, 125.9 (dd, JF-C=14.6, 3.6 Hz), 121.9 (d, JF-C=13.2, 4.3 Hz), 61.7 (d, JF-C=4.4 Hz), 53.1, 22.5; 19F{1H} NMR (376.5 MHz, DMSO-d6) δ −119.0 (d, JF-F=28.6 Hz), −129.0 (d, JF-F=28.6 Hz); IR: 3182, 3008, 2952, 1736, 1674, 1512, 1464, 1422, 1401, 1372, 1263, 1238, 1213, 1173, 1049, 1026, 977, 904, 687; MS Calcd. for C16H12Cl2F2N2O4: 404.0. Found: 404 (M+), 369.

reactant | isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C | C16H15ClF2N2O3
reactant | methyl 4-acetamido-3,6-dichloro-5-fluoropicolinate | C(C)(=O)NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C9H7Cl2FN2O3
product | Methyl 4-(acetylamino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | C(C)(=O)NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)Cl | C16H12Cl2F2N2O4
